US06090825
2-(5-{2-[4-(4-Ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethyl}-2-methoxy-benzenesulfonylamino)-acetamide
4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine (450 mg, 1.4 mmol), prepared as in Intermediate 4, and 2-[5-(2-chloro-ethyl)-2-methoxy-benzenesulfonylamino]-acetamide (644 mg), prepared as in Intermediate 6, LiBr (182 mg), and diisopropyl ethylamine (0.73 mL) in dioxane (15 mL) is stirred at 100° C. for 18 h. The solvent is evaporated and the residue purified by chromatography on silica using 3% MeOH:CHCl3 as eluent to afford the product as a white foam.

reactant | 4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine | 1.4 mmol, 450 mg | C(C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCNCC1 | C17H22N2O2
reactant | 2-[5-(2-chloro-ethyl)-2-methoxy-benzenesulfonylamino]-acetamide | 644 mg | ClCCC=1C=CC(=C(C1)S(=O)(=O)NCC(=O)N)OC | C11H15ClN2O4S
reactant | LiBr | 182 mg | [Li+].[Br-]
reactant | diisopropyl ethylamine | 0.73 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-(5-{2-[4-(4-Ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethyl}-2-methoxy-benzenesulfonylamino)-acetamide | C(C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)CCC=1C=CC(=C(C1)S(=O)(=O)NCC(=O)N)OC | C28H36N4O6S
